US08258130B2
Diethyl-iso-propylamine (1.13 mmol) is added a solution of 2-pyridin-2-yl-pyrimidine-5-carboxylic acid (0.75 mmol), pyrrolo[2,3-b]pyridine-1-ylamine (0.75 mmol) and TBTU in anhydrous DMF (7 mL) at rt, and the reaction mixture is stirred at 80° C. overnight. The reaction mixture is concentrated in vacuo. The residue is dissolved in EtOAc, washed with water twice, dried (Na2SO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 10% MeOH in DCM to give a crude product. The product is crystallized from EtOAc to afford 2-pyridin-2-yl-pyrimidine-5-carboxylic acid pyrrolo[2,3-b]pyridine-1-ylamide (78 mg, 25%) as a solid. MS: 317 (M+H); 1H NMR (300 MHz, CD3OD): δ 6.56 (m, H) 7.24 (m, H), 7.53 (m, H), 7.61 (m, H), 8.01-8.17 (m, 2H), 8.27 (d, H), 8.69 (m, H), 8.78(m, H), 9.51 (s, 2H).

reactant | Diethyl-iso-propylamine | 1.13 mmol | C(C)N(C(C)C)CC | C7H17N
reactant | 2-pyridin-2-yl-pyrimidine-5-carboxylic acid | 0.75 mmol | N1=C(C=CC=C1)C1=NC=C(C=N1)C(=O)O | C10H7N3O2
reactant | pyrrolo[2,3-b]pyridine-1-ylamine | 0.75 mmol | N1(C=CC=2C1=NC=CC2)N | C7H7N3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | 2-pyridin-2-yl-pyrimidine-5-carboxylic acid pyrrolo[2,3-b]pyridine-1-ylamide | 78 mg, 25% | N1(C=CC=2C1=NC=CC2)NC(=O)C=2C=NC(=NC2)C2=NC=CC=C2 | C17H12N6O
